US06949571B2
99 mg of 3-bromo-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one was dissolved in 10 ml of acetonitrile. 2 ml of methyl benzenesulfonate was added thereto, followed by stirring at 100° C. for 2 nights. After cooling to room temperature, the solvent was evaporated. The residue was dissolved in 10 ml of methanol, followed by cooled to 0° C. under stirring. Sodium borohydride was added 5 times at intervals of 5 hours, 1 g for each time, followed by further stirring at 0° C. overnight. Then the solvent was evaporated and a saturated aqueous solution of ammonium chloride was added to the residue, followed by extracting with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel chromatography (hexane/ethyl acetate system), to give 107 mg of 3-bromo-5-(1-methyl-1,2,3,6-tetrahydropyridin-2-yl)-1-phenyl-1,2-dihydropyridin-2-one. The product was dissolved in 10 ml of dimethylformamide. 81 mg of 2-(2-cyanophenyl)-1,3,2-dioxaborinate, 142 mg of cesium carbonate and 7 mg of tetrakistriphenylphosphine palladium were added thereto, followed by stirring at 140° C. for 2 hours. After cooling to room temperature, water was added thereto, followed by extracting with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel chromatography (hexane/ethyl acetate system), to give 41 mg of the title compound.

reactant | 3-bromo-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one | 99 mg | BrC=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C16H11BrN2O
reactant | methyl benzenesulfonate | 2 ml | C1(=CC=CC=C1)S(=O)(=O)OC | C7H8O3S
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-bromo-5-(1-methyl-1,2,3,6-tetrahydropyridin-2-yl)-1-phenyl-1,2-dihydropyridin-2-one | 107 mg | BrC=1C(N(C=C(C1)C1N(CC=CC1)C)C1=CC=CC=C1)=O | C17H17BrN2O
